US03991197
30 Ml. of sodium hypochlorite (Cl2 = 10%) are added to a solution of 5.1 g. of 4-[trans-2,2-dimethyl-5-(3,4,5-trimethoxyphenyl)-3-pyrrolidinyl]-pyridine in 50 ml. of CH2Cl2. While stirring, the reaction mixture is heated at 50° C. for 2 hours. 10 Ml. of sodium hypochlorite are added and the reaction mixture is left to react for 2 more hours. After a further addition of 10 ml. of sodium hypochlorite and an additional 2 hours, the reaction mixture is treated with water and extracted three times with methylene chloride. The organic phase which results is washed with water, dried over sodium sulfate and evaporated under reduced pressure to yield crude 4-[trans-1-chloro-2,2-dimethyl-5-(3,4,5-trimethoxyphenyl)-3-pyrrolidinyl]-pyridine.

reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | 4-[trans-2,2-dimethyl-5-(3,4,5-trimethoxyphenyl)-3-pyrrolidinyl]-pyridine | CC1(N[C@H](C[C@@H]1C1=CC=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C | C20H26N2O3
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-[trans-1-chloro-2,2-dimethyl-5-(3,4,5-trimethoxyphenyl)-3-pyrrolidinyl]-pyridine | ClN1C([C@H](C[C@@H]1C1=CC(=C(C(=C1)OC)OC)OC)C1=CC=NC=C1)(C)C | C20H25ClN2O3
